US07772246B2
To a suspension of 5-bromo-1-(4-bromophenylsulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridine (B-7-5) (4 g, 11.4 mmol) in THF (20 mL) was added aq. NaOH (20 mL) at room temperature. The mixture was heated to reflux overnight. LC-MS showed the reaction was complete. Water (100 mL) and EtOAc (50 mL×3) were added into the mixture. The organic layer was separated, dried over anhydrous Na2SO4 and concentrated to give crude mixture which was purified via prep. HPLC to afford 5-bromo-2-methyl-1H-pyrrolo[2,3-b]pyridine (B-7-6) (1.2 g, 50.2%) as a white solid.

reactant | 5-bromo-1-(4-bromophenylsulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridine | BrC=1C=C2C(=NC1)N(C(=C2)C)S(=O)(=O)C2=CC=C(C=C2)Br | C14H10Br2N2O2S
reactant | NaOH | 20 mL | [OH-].[Na+]
reactant | Water | 100 mL | O | H2O
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-bromo-2-methyl-1H-pyrrolo[2,3-b]pyridine | 1.2 g, 50.2% | BrC=1C=C2C(=NC1)NC(=C2)C | C8H7BrN2
